US03984428
Preparation of (3,5-dimethyl-4-isoxazolylmethyl)triphenylphosphonium chloride
A solution of 59.6 g. (0.402 mole) of 4-chloromethyl-3,5-dimethylisoxazole, prepared as described above, and 116 g. (0.44 mole) of triphenylphosphine in 1 liter of toluene was heated at reflux under nitrogen for 6 hours. The resulting suspension was cooled and filtered. The filtrate was heated at reflux for an additional 20 hours. The precipitate was again removed by filtration and the combined solids were washed well with ether and benzene. The solvent was removed from the filtrate and the residue was taken up in 150 ml. of fresh toluene and refluxed for an additional 18 hours. Filtration as before gave another small quantity of solid. The combined solids were crystallized from ethanol-ether to give the desired phsophonium salt as a cream-white solid, m.p. 313°-316°.

reactant | 4-chloromethyl-3,5-dimethylisoxazole | 0.402 mole | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | triphenylphosphine | 0.44 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | (3,5-dimethyl-4-isoxazolylmethyl)triphenylphosphonium chloride | [Cl-].CC1=NOC(=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H23NOP.ClH/c1-19-24(20(2)26-25-19)18-27(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-17H,18H2,1-2H3;1H/q+1;/p-1
